US07687643B2
Step A—Preparation of (2-amino(3-pyridyl))-N-(4-chlorophenyl)carboxamide
To a mixture of 2-aminonicotinic acid (5.3 g, 38 mmol) and 4-chloroaniline (4.9 g, 38 mmol) and DIEA (9 ml, 48 mmol) at 0° C. in CH2Cl2 was added EDC (9.5 g, 48 mmol) and HOBt (5.1 g, 38 mmol), the reaction was warmed to RT and stirred overnight. The solvent was evaporated under reduced pressure and quenched with 2N NaOH solution (60 ml) and stirred for 20 min. The precipitate was filtered to give the titled compound. MS (ES+): 248 (M+H)+; (ES−): 246 (M−H)−.

reactant | 2-aminonicotinic acid | 38 mmol, 5.3 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | 4-chloroaniline | 38 mmol, 4.9 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | DIEA | 48 mmol, 9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 48 mmol, 9.5 g
reactant | HOBt | 38 mmol, 5.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-amino(3-pyridyl))-N-(4-chlorophenyl)carboxamide | NC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)Cl | C12H10ClN3O
